### PR TITLE
Add Brownian quadratic variation module

### PR DESCRIPTION
**Pull request by rohitmanokaran**
Refs #432.

## Summary
- Add `BrownianMotion.StochasticIntegral.QuadraticVariationBrownian` and expose it from `BrownianMotion.lean`.
- Use the post-#469 `quadraticVariation` API through the normalized Doob-Meyer predictable-part dependencies from the #463 route.
- Move the continuous-martingale local-square-integrability obligation to `Martingale.isLocallySquareIntegrable_of_continuous`, so the Brownian file depends on the general lemma instead of carrying Brownian-specific deterministic localization code.
- Close `quadraticVariation_brownian` using the Brownian square-minus-time martingale decomposition and normalized predictable-part uniqueness.

## Dependency notes
- Rebased on upstream `master` through #488.
- `QuadraticVariationBrownian.lean` has no `sorry`.
- Remaining placeholders are in dependency-layer APIs: continuous martingale implies locally square-integrable, and normalized Doob-Meyer existence/uniqueness.

## Validation
- `lake build BrownianMotion.StochasticIntegral.QuadraticVariationBrownian`
- `lake env lean BrownianMotion.lean`

### CODE REVIEW

File: BrownianMotion/StochasticIntegral/QuadraticVariationBrownian.lean [hunk 1]
```diff
@@ -0,0 +1,167 @@
...
+    refine iSup_le fun i ↦ ?_
+    rw [eLpNorm_brownian_eq]
+    exact ENNReal.ofReal_le_ofReal
+      (Real.sqrt_le_sqrt (by exact_mod_cast (min_le_right i T)))
+
+/-- The canonical Brownian motion is locally square-integrable.
+
+The localizing sequence is given by deterministic positive horizons. -/
+lemma locally_isSquareIntegrable_brownian :
+    IsLocallySquareIntegrable brownian brownianNaturalFiltration gaussianLimit := by
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/QuadraticVariationBrownian.lean]: You should prove the more general result that a continuous martingale is locally square integrable (in a new PR).
